US06096771
(a) Methyl 2,5-dichloronicotinate
2,5-dichloronicotinic acid chloride (5.0 g) was dissolved in methanol (30 ml) with stirring under ice cooling and then stirred at room temperature for 30 minutes. The solvent was evaporated under reduced pressure and the residue was dissolved in ether and washed with saturated sodium hydrogen carbonate water solution and brine. The extract was dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (30/1), to give the title compound (4.2 g, 86%).

reactant | 2,5-dichloronicotinic acid chloride | 5.0 g | ClC1=C(C(=O)Cl)C=C(C=N1)Cl | C6H2Cl3NO
reactant | methanol | 30 ml | CO | CH4O
product | Methyl 2,5-dichloronicotinate | 4.2 g, 86% | ClC1=C(C(=O)OC)C=C(C=N1)Cl | C7H5Cl2NO2
